*ZETEX ZHT431 Spice Model v1.0 Last Revised 22/7/2005
    *              
    *NOTE: This is a simplified Model.  Do not rely on this Model for 
    *validation of circuit stability.  It does not accurately replicate 
    *stability boundary conditions with additional load capacitance.  
    *Check stability by normal breadboarding techniques.
    *
    .SUBCKT ZHT431 1 2 3
    *Connections  Vz Vref Gnd
    *Input current
    L2 2 12 2E-9
    Rin 12 13 Rmod1 20E6
    Cin 12 13 1E-12
    D1 13 12 Dmod
    D2 12 11 Dmod
    *Reference voltage, Voltage dependence
    Iref 13 21 2.4985E-3
    Rref 21 13 Rmod2 1000
    G1 21 13 11 13 1.43E-6
    *Gain, time constant  and  clamp voltage
    G2 13 31 12 21 0.004
    Rt1 31 13 1E8
    Ct1 31 32  800E-12
    Rt2 32 13 2000
    Ct2 31 33  50E-12
    Rt3 33 13 5
    D3 31 13 Dmod
    D4 13 31 Dmod
    *Buffer,Output
    G3 13 41 13 31 0.22
    L1 1 11 2E-9
    Rz 11 42 10
    D5 42 41 Dmod
    D6 13 41 Dmod
    D7 13 11 Dmod
    Rx 13 23 0.5
    L3 3 23 2E-9
    Rq 11 13  Rmod3 74E3
    *
    .MODEL Rmod1 RES (TC1=2.95E-3 TC2=-5E-7)
    .MODEL Rmod2 RES (TC1=8.5E-6 TC2=-3.3E-7)
    .MODEL Rmod3 RES (TC1=-2.5E-3 TC2=2E-5)
    .MODEL Dmod D IS=1E-14 RS=0.1 BV=22 CJO=0.1E-12
    .ENDS  ZHT431
    *
    *$
    *